US05767116
A mixture of 4-carbamoyl-1-(2,4-dinitrophenyl)-pyridinium chloride (43.2 g, prepared in a similar manner to that described in Example 2), 3-methoxyaniline (34 g) and methanol (1500 ml) was stirred at ambient temperature for 16 hours. The mixture was then warmed at 40° C. for 30 minutes, and stirring was continued for 2 hours at ambient temperature, then the solvent was removed in vacuo. Ether was added to the resulting oily solid and the solid collected by filtration. The solid was triturated in hot 2-propanol (11), collected by filtration and dried. The solid was triturated in hot acetone, collected by filtration and dried to give 4-carbamoyl-1-(3-methoxyphenyl)pyridinium chloride as a beige solid (32.4 g), m.p. 272° C. (dec).

reactant | 4-carbamoyl-1-(2,4-dinitrophenyl)-pyridinium chloride | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-]
reactant | 3-methoxyaniline | 34 g | COC=1C=C(N)C=CC1 | C7H9NO
solvent | methanol | 1500 ml | CO | CH4O
product | 4-carbamoyl-1-(3-methoxyphenyl)pyridinium chloride | 32.4 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=CC(=CC=C1)OC | InChI=1S/C13H12N2O2.ClH/c1-17-12-4-2-3-11(9-12)15-7-5-10(6-8-15)13(14)16;/h2-9H,1H3,(H-,14,16);1H
